US04723002
(A) N-[3-(Bromoacetyl)-2-oxo-1-imidazolidinyl]-carbamic acid, 1,1-dimethylethyl ester
N-(2-Oxo-1-imidazolidinyl)carbamic acid, 1,1-dimethylethyl ester (12.0 g, 0.06 mmol) was dissolved in dichloromethane (75 ml) containing pyridine (5.2 g, 0.066 mol). The solution was cooled to 0° C. and treated slowly with bromoacetyl bromide (13.3 g, 0.066 mol). The solution was evaporated in vacuo to give a yellow oil. The oil was chromatographed on silica gel (~300 g) eluting with 10% ethyl acetate/dichloromethane. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a white solid, 16.7 g.

reactant | N-(2-Oxo-1-imidazolidinyl)carbamic acid, 1,1-dimethylethyl ester | 0.06 mmol, 12.0 g | O=C1N(CCN1)NC(OC(C)(C)C)=O | C8H15N3O3
reactant | pyridine | 0.066 mol, 5.2 g | N1=CC=CC=C1 | C5H5N
reactant | bromoacetyl bromide | 0.066 mol, 13.3 g | BrCC(=O)Br | C2H2Br2O
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | N-[3-(Bromoacetyl)-2-oxo-1-imidazolidinyl]-carbamic acid, 1,1-dimethylethyl ester | BrCC(=O)N1C(N(CC1)NC(OC(C)(C)C)=O)=O | C10H16BrN3O4
